US05972975
Using the general method of F. W. Vierhapper and E. L. Eliel (J. Org. Chem., 1975, 40, 2729), a solution of 4.97 g (34.7 mmol) of lepidine in 35 mL of trifluoroacetic acid was shaken with 580 mg of platinum oxide under 50 psi of hydrogen for 18 h. After filtering off the catalyst, the solution was concentrated to about 20 mL and diluted with 25 mL of water. The aquous solution was chilled in ice, and basified carefully with 35 mL of 50% aqueous sodium hydroxide. The aqeuous layer was then extracted with 4×50 mL of diethyl ether. The organic layers were dried over potassium hydroxide, decanted, and concentrated to yield 4.7 g (92% yield) of 4-methyl-5,6,7,8-tetrahydroquinoline as an amber oil.

reactant | lepidine | 34.7 mmol, 4.97 g | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 35 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | 580 mg | [Pt]=O
product | 4-methyl-5,6,7,8-tetrahydroquinoline | 4.7 g, 92% yield | CC1=CC=NC=2CCCCC12 | C10H13N
